US07067517B2
Methyl-phenyl-carbamic acid 4-(4-methyl-piperazine-1-carbonyl)-phenyl ester
The title product was prepared from 1-(4-hydroxybenzoyl)-4-methyl-piperazine and N-methyl-N-phenylcarbamoyl chloride. The crude product was subjected to preparative HPLC (22%, colorless oil). HPLC-MS: m/z=354.1 (M+1); Rt: 2.07 min.

reactant | 1-(4-hydroxybenzoyl)-4-methyl-piperazine | OC1=CC=C(C(=O)N2CCN(CC2)C)C=C1 | C12H16N2O2
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 4-(4-methyl-piperazine-1-carbonyl)-phenyl ester | CN1CCN(CC1)C(=O)C1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C20H23N3O3
